US07981918B2
(R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one
To a solution of (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(4-benzyloxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde, Preparation 38, (2 g, 3.81 mmol) in DCE (75 mL) at room temperature, add 4,5,6,7-tetrahydro-1H-indazol-4-ylamine (0.66 g, 4.77 mmol) and sodium triacetoxy borohydride (2.42 g, 11.45 mmol). Stir the reaction at room temperature for 12 h and at 50° C. for 1 hour. Cool the reaction, dilute with dichloromethane and wash with water. After drying the organic layer over sodium sulfate, filter and concentrate under vacuum. Purify the residue by silica gel chromatography with 50% ethyl acetate in hexane to 100% ethyl acetate to afford 1.32 g of the title compound. MS (m/z): 470 (M+).

reactant | (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(4-benzyloxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=O)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C28H25Cl2NO5
reactant | 4,5,6,7-tetrahydro-1H-indazol-4-ylamine | 4.77 mmol, 0.66 g | N1N=CC=2C(CCCC12)N | C7H11N3
reactant | sodium triacetoxy borohydride | 11.45 mmol, 2.42 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 75 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one | 1.32 g | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)C2C=3C=NNC3CCC2)=O)C(=C1)Cl)Cl | C25H25Cl2N3O2
